US06054470
A mixture of 5-iodo-4-methyl-3-nitro-2-pyridone (8.0 g, 28.6 mmol) and sodium hydride (1.03 g, 43 mmol) in DMF (150 mL) was stirred at rt for 1 hour. n-Hexyl bromide (8.03 mL, 57.2 mmol) was added, and the mixture was stirred for 24 hours. Water was added, and the mixture was extracted with ethyl acetate. The organic phase was washed, dried, filtered and evaporated. Chromatography of a portion of the residue over silica gel (20% petroleum ether/methylene chloride) gave 1-hexyl-5-iodo-4-methyl-3-nitro-2-pyridone.

reactant | 5-iodo-4-methyl-3-nitro-2-pyridone | 28.6 mmol, 8.0 g | IC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C6H5IN2O3
reactant | sodium hydride | 43 mmol, 1.03 g | [H-].[Na+]
reactant | n-Hexyl bromide | 57.2 mmol, 8.03 mL | C(CCCCC)Br | C6H13Br
reactant | Water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 1-hexyl-5-iodo-4-methyl-3-nitro-2-pyridone | C(CCCCC)N1C(C(=C(C(=C1)I)C)[N+](=O)[O-])=O | C12H17IN2O3
